US08252792B2
Hydrogen chloride gas (4 g) was bubbled through methanol (120 mL) at 0° C. Proline (3.80 g) was then added and stirred for 4.5 hours, reduced in vacuo to give pyrrolidine-2-carboxylic acid methyl ester hydrochloride salt (5.5 g). To a suspension of pyrrolidine-2-carboxylic acid methyl ester hydrochloride salt (5.5 g) in acetonitrile (90 mL) was added triethylamine (10.2 mL) and di-tert-butyldicarbonate (8.0 g). After stirring for 16 hours the reaction mixture was reduced in vacuo. The residue was redissolved in dichloromethane (40 mL), washed with brine (40 mL), dried (MgSO4), reduced in vacuo and purified by column chromatography to give pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (6.33 g).

reactant | pyrrolidine-2-carboxylic acid methyl ester hydrochloride salt | 5.5 g | Cl.COC(=O)C1NCCC1
reactant | triethylamine | 10.2 mL | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 8.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 90 mL | C(C)#N | C2H3N
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 6.33 g | COC(=O)C1N(CCC1)C(=O)OC(C)(C)C | C11H19NO4
